US09023865B2
2-(Trifluoromethyl)benzaldehyde (0.758 mL, 5.74 mmol) was dissolved in MeOH (5 mL) and nitromethane (0.370 mL, 6.89 mmol) was added. The mixture was cooled to −10° C. and a solution of NaOH (0.241 g, 6.03 mmol) in Water (2 mL) was added slowly keeping the temperature below −5° C. The mixture stirred at −5° C. for 15 minutes then warmed to 0° C. and stirred for two hours. Ice water (6 mL) was added followed by HCl (6 N, 3 mL). The mixture was extracted with DCM (×2) and washed with brine. The combined organic layers were dried over sodium sulfate, filtered, and concentrated in vacuo to give (E)-1-(2-nitrovinyl)-2-(trifluoromethyl)benzene (1.12 g, 2.373 mmol, 41%).

reactant | 2-(Trifluoromethyl)benzaldehyde | 5.74 mmol, 0.758 mL | FC(C1=C(C=O)C=CC=C1)(F)F | C8H5F3O
reactant | nitromethane | 6.89 mmol, 0.370 mL | [N+](=O)([O-])C | CH3NO2
reactant | NaOH | 6.03 mmol, 0.241 g | [OH-].[Na+]
reactant | HCl | 6 N, 3 mL | Cl | ClH
solvent | MeOH | 5 mL | CO | CH4O
solvent | Water | 2 mL | O | H2O
product | (E)-1-(2-nitrovinyl)-2-(trifluoromethyl)benzene | 2.373 mmol, 1.12 g, 41% | [N+](=O)([O-])/C=C/C1=C(C=CC=C1)C(F)(F)F | C9H6F3NO2
